US05434186
Preparation of 6-[[5-[(3,4-Dihydro-4-oxo-8-propyl-2H-1-benzopyran-7-yl)oxy]pentyl]oxy]-2,5-quinolinedipropanoic Acid
To a mixture of 0.126 g (0.2 mmol) of 6-[[5-[(3,4-dihydro-4-oxo-8-propyl-2H-1-benzopyran-7-yl)oxy]pentyl]oxy]-2,5-quinolinedipropanoic acid diethyl ester from the preceding example, 2.5 mL of tetrahydrofuran and 2.5 mL of water was added 25.7 mg (0.61 mmol) of lithium hydroxide monohydrate. The mixture was stirred at room temperature for 28.5 hr, acidified with 7 drops of 3N aqueous sulfuric acid, and worked-up with ethyl acetate in the usual manner. The residue was taken up in small amount of ethyl acetate and methanol and filtered. Most of the solvent in the filtrate was evaporated and hexane was then added to induce crystallization. The title compound (33.4 mg, 29.1%) was thus obtained as a white solid, mp 123°-128° C.

reactant | 6-[[5-[(3,4-dihydro-4-oxo-8-propyl-2H-1-benzopyran-7-yl)oxy]pentyl]oxy]-2,5-quinolinedipropanoic acid diethyl ester | 0.2 mmol, 0.126 g | C(C)OC(CCC1=NC=2C=CC(=C(C2C=C1)CCC(=O)OCC)OCCCCCOC1=C(C2=C(C(CCO2)=O)C=C1)CCC)=O | C36H45NO8
reactant | tetrahydrofuran | 2.5 mL | O1CCCC1 | C4H8O
reactant | water | 2.5 mL | O | H2O
reactant | lithium hydroxide monohydrate | 0.61 mmol, 25.7 mg | O.[OH-].[Li+]
catalyst | sulfuric acid | 3N, 7 drops | S(O)(O)(=O)=O | H2O4S
solvent | methanol | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6-[[5-[(3,4-Dihydro-4-oxo-8-propyl-2H-1-benzopyran-7-yl)oxy]pentyl]oxy]-2,5-quinolinedipropanoic Acid | 33.4 mg, 29.1% | O=C1CCOC2=C1C=CC(=C2CCC)OCCCCCOC2=C(C=1C=CC(=NC1C=C2)CCC(=O)O)CCC(=O)O | C32H37NO8
